US04638005
2-(3,4-Dihydroxybutyl)pyrazine (1400)
4.15 g of 4-(2-pyrazinyl)-1-butene (1300) was dissolved in 100 ml of 1:1 water/acetone and cooled to 5° C. To this was slowly added a solution of 3.60 g of potassium permanganate in 300 ml of water. This was kept at 5° C. for 18 hours and then allowed to stir for 4 hours at R.T. It was adjusted to pH 7 with 5% H2SO4, filtered through celite and concentrated. Continuous extraction with chloroform for 2 days followed by evaporation of the solvent left 4.27 g of product (1400) which was distilled under vacuum, b.p. 174°-5° (0.2 mm). UV H2O max: 268 (3.76), 272 (3.76).

reactant | 4-(2-pyrazinyl)-1-butene | 4.15 g | N1=C(C=NC=C1)CCC=C | C8H10N2
reactant | potassium permanganate | 3.60 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | water acetone | 100 ml | O.CC(=O)C
solvent | water | 300 ml | O | H2O
product | 2-(3,4-Dihydroxybutyl)pyrazine | OC(CCC1=NC=CN=C1)CO | C8H12N2O2
